US09056874B2
tert-Butyl 4-allyl-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate
tert-Butyl 4-allyl-5-hydroxy-7-methyl-1H-indole-1-carboxylate (3.6 g, 12.53 mmol) was dissolved in acetonitrile (62.6 mL) and water (62.6 mL), then KOH (14.06 g, 251 mmol) was added and the solution was stirred until all the KOH went into solution. The resulting solution was then cooled to −78° C. (solution froze) and diethyl bromodifluoromethylphosphonate (4.45 mL, 25.06 mmol) was added. The reaction was removed from the dry ice bath and allowed to warm to room temperature. After 1 hour, EtOAc and water were added, and the resulting layers were separated. The aqueous layer was further extracted with EtOAc. The combined organics were washed with brine, dried over MgSO4, filtered and concentrated. The resulting residue was purified by flash chromatography (0-40% EtOAc in heptanes) to provide the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.69 (d, J=3.79 Hz, 1H) 7.08 (t, J=74.7 Hz, 1H) 6.96 (s, 1H) 6.76 (d, J=3.79 Hz, 1H) 5.89 (dd, J=16.93, 10.36 Hz, 1H) 4.91-5.05 (m, 2H) 3.57 (d, J=6.32 Hz, 2H) 1.59 (s, 9H). MS (ESI+) m/z 338.1 (M+H).

reactant | tert-Butyl 4-allyl-5-hydroxy-7-methyl-1H-indole-1-carboxylate | 12.53 mmol, 3.6 g | C(C=C)C1=C2C=CN(C2=C(C=C1O)C)C(=O)OC(C)(C)C | C17H21NO3
reactant | KOH | 251 mmol, 14.06 g | [OH-].[K+]
reactant | diethyl bromodifluoromethylphosphonate | 25.06 mmol, 4.45 mL | BrC(F)(F)P(OCC)(OCC)=O | C5H10BrF2O3P
solvent | acetonitrile | 62.6 mL | C(C)#N | C2H3N
solvent | water | 62.6 mL | O | H2O
product | tert-Butyl 4-allyl-5-(difluoromethoxy)-7-methyl-1H-indole-1-carboxylate | C(C=C)C1=C2C=CN(C2=C(C=C1OC(F)F)C)C(=O)OC(C)(C)C | C18H21F2NO3
